US07598249B2
4-(3,4-Dichloro-benzyl)-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and 3,4-dichlorobenzaldehyde in analogy to Example 18. 1H NMR (400 MHz, CDCl3): 8.82-8.81 (m, 2H), 7.98-7.96 (m, 2H), 7.65-7.57 (m, 3H), 7.16-7.13 (m, 1H), 3.88-3.81 (m, 4H), 3.50 (s, 2H), 2.60-2.53 (m, 4H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | 4-(3,4-Dichloro-benzyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C18H19Cl2N3O
